US04011321
A mixture of methyl 3-(3-hydroxy-4-nitrobenzoyl)propionate, potassium carbonate, benzoyl chloride, and dimethylformamide was stirred overnight and the solvent removed by evaporation under reduced pressure. The residue was distributed between water and ether, and the aqueous phase was extracted with ether. The combined ethereal solution was washed in turn with dilute sodium hydroxide solution and water. Evaporation of the dried solution gave methyl 3-(3-benzyloxy-4-nitrobenzoyl)propionate.

reactant | methyl 3-(3-hydroxy-4-nitrobenzoyl)propionate | OC=1C=C(C(=O)CCC(=O)OC)C=CC1[N+](=O)[O-] | C11H11NO6
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | methyl 3-(3-benzyloxy-4-nitrobenzoyl)propionate | C(C1=CC=CC=C1)OC=1C=C(C(=O)CCC(=O)OC)C=CC1[N+](=O)[O-] | C18H17NO6
